US06753391B1
To a mixture of N-[2-(bis-{2-[2-(2-chloro-acetylamino)-2-methyl-propionylamino]-ethyl}-amino)ethyl]-2-(2-chloro-acetylamino)-2-methyl-propionamide (1.00 g; 1.54 mmol) and 20 mL acetonitrile was added O-ethyl xanthic acid potassium salt (0.761 g; 4.75 mmol). After stirring the mixture at room temperature for 5 hr, additional O-ethyl xanthic acid potassium salt (0.370 g; 2.31 mmol) was added. After stirring for an additional 5 hours at room temperature, the mixture was filtered. The filtrate was concentrated under reduced pressure to to afford 1.20 g (87%) of the tris(ring-opened AzTC)amine as a red solid.

reactant | N-[2-(bis-{2-[2-(2-chloro-acetylamino)-2-methyl-propionylamino]-ethyl}-amino)ethyl]-2-(2-chloro-acetylamino)-2-methyl-propionamide | 1.54 mmol, 1.00 g | ClCC(=O)NC(C(=O)NCCN(CCNC(C(C)(C)NC(CCl)=O)=O)CCNC(C(C)(NC(CCl)=O)C)=O)(C)C | C24H42Cl3N7O6
reactant | O-ethyl xanthic acid potassium salt | 4.75 mmol, 0.761 g | [K+].C(C)OC(=S)[S-]
reactant | O-ethyl xanthic acid potassium salt | 2.31 mmol, 0.370 g | [K+].C(C)OC(=S)[S-]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | Dithiocarbonic acid S-({1-[2-(bis-{2-[2-(2-ethoxythiocarbonylsulfanyl-acetylamino)-2-methyl-propionylamino]-ethyl}-amino)-ethylcarbamoyl]-1-methyl-ethylcarbamoyl}-methyl) ester O-ethyl ester | 1.20 g, 87% | C(C)OC(SCC(NC(C)(C)C(NCCN(CCNC(C(C)(NC(CSC(=S)OCC)=O)C)=O)CCNC(C(C)(C)NC(CSC(=S)OCC)=O)=O)=O)=O)=S | C33H57N7O9S6
